US06696180B2
2-Phenylpyridine 3 g(19.3 mmol) and iron powder 40 mg(0.716 mmol) were mixed and stirred. Bromine 4.0 g (25 mmol) was added dropwise with stirring at 0° C., avoiding the rising temperature. Then the mixture was heated up to 90° C. and keep the temperature for ten hours with stirring. After the completion of the reaction, this reaction mixture was dissolved into chloroform solution and washed with 5% aqueous sodium thiosulfate solution. After dried by sodium sulufate, the organic solution was concentrated by an evaporator. The residue obtainedwas purifiedbyuse of silica gel column chromatography. 1.6 g (6.83 mmol) of 2-(bromophenyl)pyridine was obtained and the yield was 35.4%. Analysis: M+=234.0 By FD-MS.

reactant | 2-Phenylpyridine | 19.3 mmol, 3 g | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
reactant | Bromine | 25 mmol, 4.0 g | BrBr | Br2
catalyst | iron | 0.716 mmol, 40 mg | [Fe] | Fe
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(bromophenyl)pyridine | 6.83 mmol, 1.6 g, yield was 35.4% | BrC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8BrN
